US05688815
Under normal pressure and at room temperature, 0.643 g of 3-benzyloxy-1-methyl-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one is hydrogenated in 25 ml of methanol over 0.1 g of palladium on carbon (5%) until 1 mol of H2 per mol of starting material has been taken up. Removal of the catalyst and recrystallisation from methanol yield 3-hydroxy-1-methyl-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one. M.p.: 210°-213° C.

reactant | 3-benzyloxy-1-methyl-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one | 0.643 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)C)C(C1=CC=CC=C1)O | C20H19NO3
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | 3-hydroxy-1-methyl-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one | OC1=C(N(C=CC1=O)C)C(C1=CC=CC=C1)O | C13H13NO3
